US07737279B2
A2.1: 3-(2-(trimethylsilyl)ethynyl)benzonitrile
To a solution of commercially available 3-iodobenzonitrile (25 g, 0.109 mol), copper (I) iodide (2.08 g, 0.0109 mol), PdCl2(PPh3)2 (3.82 g, 0.0054 mol) and triethylamine (45.7 ml, 0.327 mol) in 250 of dry dichloromethane was added 12.8 g (0.131 mol) of trimethylsilylacetylene drop wise at 0° C. over a period of 10 min. The reaction mixture was stirred at RT over night. The reaction mixture was diluted with additional dichloromethane, filtered over Celite and the filtrate was concentrated. The crude material was purified by silica gel (60-120) column chromatography using 95:5 petrolium ether/ethyl acetate as eluent. A2.1 (20 g, 92%) was obtained as a brown solid 1H NMR, 400 MHz, CDCl3: 7.79 (s, 1H), 7.67 (d, 1H), 7.59 (d, 1H), 7.43 (t, 1H), 0.26 (s, 9H).

reactant | 3-iodobenzonitrile | 0.109 mol, 25 g | IC=1C=C(C#N)C=CC1 | C7H4IN
reactant | triethylamine | 0.327 mol, 45.7 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 0.131 mol, 12.8 g | C[Si](C)(C)C#C | C5H10Si
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper (I) iodide | 0.0109 mol, 2.08 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.0054 mol, 3.82 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(2-(trimethylsilyl)ethynyl)benzonitrile | C[Si](C#CC=1C=C(C#N)C=CC1)(C)C | C12H13NSi
